US07538114B2
To a solution of 3,3′-bis(trifluoromethyl)benzophenone (11.4 g, 36 mmol) in MeOH (50 mL) was added sodium borohydride (1.9 ml, 53 mmol) portionwise at rt. The suspension was stirred at rt for 24 h. The reaction was diluted slowly with water and extracted with CH2Cl2. The organic was washed successively with water, brine, dried over Na2SO4, and concentrated to give bis(3-(trifluoromethyl)phenyl)methanol (10.8 g, 94% yield). The crude oil was used in the next reaction without further purification.

reactant | 3,3′-bis(trifluoromethyl)benzophenone | 36 mmol, 11.4 g | FC(C=1C=C(C(=O)C2=CC(=CC=C2)C(F)(F)F)C=CC1)(F)F | C15H8F6O
reactant | sodium borohydride | 53 mmol, 1.9 ml | [BH4-].[Na+]
solvent | MeOH | 50 mL | CO | CH4O
solvent | water | O | H2O
product | bis(3-(trifluoromethyl)phenyl)methanol | 10.8 g, 94% yield | FC(C=1C=C(C=CC1)C(O)C1=CC(=CC=C1)C(F)(F)F)(F)F | C15H10F6O
